US07423044B2
6-Benzyl-2-(3,5-dichloro-phenyl)-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidin-4-ol
The title compound was prepared from 1-benzyl-4-oxo-piperidine-3-carboxylic acid ethyl ester and 3,5-dichloro-benzamidine hydrochloride according to general procedure 1. 1H NMR (DMSO-d6, 400 MHz) δ 2.70-2.90 (m, 4H), 3.20-3.50 (m, 4H), 3.70-3.90 (m, 2H), 7.10-7.50 (m, 6H), 7.83 (s, 1H), 8.12 (s, 2H), 12.70 (br s, 1H); MS: m/z (ESI) 386 (M+H).

reactant | 1-benzyl-4-oxo-piperidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1CN(CCC1=O)CC1=CC=CC=C1 | C15H19NO3
reactant | 3,5-dichloro-benzamidine hydrochloride | Cl.ClC=1C=C(C(=N)N)C=C(C1)Cl
product | 6-Benzyl-2-(3,5-dichloro-phenyl)-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidin-4-ol | C(C1=CC=CC=C1)N1CC2=C(N=C(N=C2O)C2=CC(=CC(=C2)Cl)Cl)CC1 | C20H17Cl2N3O
